* OP-90 SPICE Macro-model                   
* Description: Amplifier                                      
* Generic Desc: 1.6/30V, BIP, OP, Low Pwr, Low Vsy, 1X
* Developed by: JCB / PMI
* Revision History: 08/10/2012 - Updated to new header style
* 3.0 (10/1992) - Altered gain stage for proper open-loop gain.
* 2.0 		- Re-ordered subcircuit call out nodes to put the output node last.
*    		- Changed Ios from 0.4E-9 to 0.2E-9
* Copyright 1990, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*
* Parameters modeled include:
*
* END Notes
*
* Node assignments
*              non-inverting input
*              | inverting input
*              | | positive supply
*              | | |  negative supply
*              | | |  |  output
*              | | |  |  |
.SUBCKT OP-90  1 2 99 50 31
*
* INPUT STAGE & POLE AT 10 KHZ
*
R1    2  3     5E11
R2    1  3     5E11
R3    5 51     61.6E3
R4    6 51     61.6E3
CIN   1  2     4E-12
C2    5  6     129.2E-12
I1    97 4     1UA
IOS   1  2     0.2E-9
EOS   9  1     POLY(1)  23 27  50E-6  1
Q1    5  2  7  QX
Q2    6  9  8  QX
R5    7  4     10E3
R6    8  4     10E3
*
EREF  98 0    27  0  1
EPLUS 97 0    99  0  1
ENEG  51 0    50  0  1 
*
* FIRST GAIN STAGE
*
R7   10 98     1E6
G1   98 10     5  6  42.23E-6
D1   10 11     DX
D2   12 10     DX
E1   97 11     POLY(1) 97 27 -1.4 1
E2   12 51     POLY(1) 27 51 -1.4 1
*
* GAIN STAGE & DOMINANT POLE AT 0.035 HZ
*
R8   13 98     5.457E6
C3   13 98     83.333E-8
G2   98 13     10 27  5E-3
H2   97 14     POLY(1) VS2 1.6 -3E3
E5   15 51     POLY(2) (17,51) (97,27) 1.4 1.5 -0.4
D3   13 14     DX
D4   15 13     DX
*
* ZERO-IN ZERO-OUT CLAMP
*
F1   51  17    VS2  -1000
RS1  17  51    1E9
D5   17  51    DX
D6   51  17    DX
*
* NEGATIVE ZERO AT -100 KHZ
*
R9   19 20     1E6
C4   19 20     -1.59E-12
R10  20 98     1
E3   19 98     13 27  1E6
*
* ZERO - POLE PAIR AT 28 KHZ / 100 KHZ
*
R11  21 22     1E6
L1   22 98     4.09
R12  22 98     2.57E6
G3   98 21     20 27  1E-6
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 4 HZ
*
R13  23 24     1E6
L2   24 98     39.79E3
G4   98 23     3  27  3.16E-13
D8   23 97     DX
D9   51 23     DX
*
* ZERO - POLE PAIR AT 40 KHZ / 160 KHZ
*
R14  25 26     1E6
L3   26 98     2.98
R15  26 98     3E6
G5   98 25     21 27  1E-6
*
* OUTPUT STAGE
*
ISY  99 50     8.444E-6
R16  27 99     2.7E6
R17  27 50     2.7E6
R18  30 99     6000
R19  30 50     6000
VS2  30 31     DC 0
G6   28 50     25 30  166.7E-6
G7   29 50     30 25  166.7E-6
G8   30 99     99 25  166.7E-6
G9   50 30     25 50  166.7E-6
D10  99 28     DX
D11  99 29     DX
D12  50 28     DY
D13  50 29     DY
*
* MODELS USED
*
.MODEL QX PNP(BF=125)
.MODEL DX   D(IS=1E-15)
.MODEL DY   D(IS=1E-15 BV=50)
.ENDS OP-90


